US05334576
Preparation of diethyl 6-(2-furyl)pyridine-2,3-dicarboxylate
A solution of 147 g of diethyl ethoxymethyleneoxalacetate in 600 mL of absolute ethanol is stirred at 5° C. while a solution of 68.8 g of 1-dimethylamino-1-(2-furyl)ethylene in 400 mL of absolute ethanol is added dropwise over 1 hour. After stirring for an additional 2 hours, the reaction mixture is treated with 250 mL of concentrated aqueous ammonium hydroxide. The resulting mixture is stirred at ambient temperature overnight and then concentrated in vacuo. Chromatography of the residue on silica gel using chloroform as eluant affords the desired product.

reactant | diethyl ethoxymethyleneoxalacetate | 147 g | C(C)OC=C(C(=O)OCC)C(=O)C(=O)OCC | C11H16O6
reactant | 1-dimethylamino-1-(2-furyl)ethylene | 68.8 g | CN(C(=C)C=1OC=CC1)C | C8H11NO
reactant | ammonium hydroxide | 250 mL | [OH-].[NH4+]
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | diethyl 6-(2-furyl)pyridine-2,3-dicarboxylate | O1C(=CC=C1)C1=CC=C(C(=N1)C(=O)OCC)C(=O)OCC | C15H15NO5
